US06313122B1
D. N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-N4-(tert-butoxycarbonyl)-1,2,4-benzenetriamine
Using a similar procedure to that described in Example 48, Part C, N4-(tert-butoxycarbonyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine (380 mg, 0.86 mmol) and 4-chlorobenzoyl chloride (0.12 mL, 0.95 mmol) yielded 360 mg (72%) of the title compound.

reactant | N4-(tert-butoxycarbonyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2,4-benzenetriamine | 0.86 mmol, 380 mg | C(C)(C)(C)OC(=O)NC=1C=C(C(=CC1)N)NC(=O)OC(C1=CC=NC=C1)C1CCNCC1 | C23H31N5O4
reactant | 4-chlorobenzoyl chloride | 0.95 mmol, 0.12 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-N4-(tert-butoxycarbonyl)-1,2,4-benzenetriamine | 360 mg, 72% | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)NC(=O)OC(C)(C)C)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C30H34ClN5O5
